US06054414
13. 8-Methyl-1-oxothiochroman-4-one-7-carboxylic Acid
7.0 g (31.5 mmol) of 8-methylthiochroman-4-one-7-carboxylic acid are initially introduced into 70 ml of acetic acid together with a spatula tipful of sodium tungstate. 3.6 g (31.5 mmol) of 30% strength hydrogen peroxide solution are added dropwise at 50° C. and the reaction solution is subsequently stirred for 3 hours. It is then stirred into water and the product is extracted with ethyl acetate. The organic phase is dried and the solvent is removed. The product is purified by chromatography.

reactant | 8-methylthiochroman-4-one-7-carboxylic acid | 31.5 mmol, 7.0 g | CC=1C(=CC=C2C(CCSC12)=O)C(=O)O | C11H10O3S
reactant | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | OO | H2O2
catalyst | sodium tungstate | [O-][W](=O)(=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 8-Methyl-1-oxothiochroman-4-one-7-carboxylic Acid | CC=1C(=CC=C2C(CCS(C12)=O)=O)C(=O)O | C11H10O4S
